datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][NH:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[NH][H] 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C1(C([O:21][C:20](O1)([O-:10])OCC)CC)C1=CC=CC=C1>>C(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)([O-:21])CC 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].CC[S:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(CC)[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"CC1C(C(O[C:20](N1CC)([O-:10])[Cl:21])[H])[H]>>CC1C(C(O[C:20](=[O:10])N1CC)[H])[H].[Cl-:21] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])CCCCCC)C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
"[Li][O+:21]([C:20]([O-:10])(OC)OCC)[H]>>[Li][O:21][H].[C:20](=[O:10])(OC)OCC 10=20;20,21=21"
"C[O+:10]([H])[C:20]([NH:21][H])([NH][H])[O][H].[Cl-]>>[Cl-].C[O:10][H].[H][NH+:21]=[C:20]([NH][H])[O][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)=C(C)C(C)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(C)/C(C)=C(C)\[C:20](OC)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].[H][O:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[S]CC 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O]C(C)C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[O]C(C)C([H])[O]1 10=20;20,21=21"
"CN([C:20]([O-:10])(OCCCCCC)[O:21]C)[H]>>CN([C:20](=[O:10])OCCCCCC)[H].[O-:21]C 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C(C)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C([O:21]1)CCCCCC)C)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C([O-:21])CCCCCC)C)CC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C([H])C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[O:10]([K])C([H])C(O)C([C:20](OCC)=[O:21])O>>[O-:21][C:20]1(OCC)[O+:10]([K])C([H])C(O)C1O 10=20;20,21=21"
"[O-:21][C:20]1(C)[O:10]C(CC)C(C)C1O>>[O-:10]C(CC)C(C)C([C:20](C)=[O:21])O 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1[H])[H])CC.[O-:21]CC>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)[H])CC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(CC)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[O:10]([Na])C(C)/C(C)=C(C)\C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)=C(C)C(C)[O+:10]1([Na]) 10=20;20,21=21"
"[H][S:10]C([H])C(C)[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
